US06225020B1
Synthesis of poly(ethyl maleimide/t-butyl 5-norbornene-2-carboxylate/3-hydroxypropyl bicyclo[2,2,2]oct-5-ene-2-carboxylate) polymer (Formula 10)
Ethyl maleimide (1 mol.), t-butyl 5-norbornene-2-carboxylate (0.5 mol.) and 2-hydroxyethyl bicyclo[2,2,2]oct-5-ene-2-carboxylate (0.5 mol) were dissolved in 50 g to 300 g of tetrahydrofuran (THF), 2 g to 15 g of 2,2′-azobisisobutyronitrile (AIBN) was added thereto, and the resulting solution was reacted at a temperature between 60° C. and 70° C. in a nitrogen atmosphere for 10 hours. After a high molecular weight was achieved by the reaction, the resultant product was precipitated in an ethyl ether or hexane solvent. The gathered precipitate was dried, and the desired poly(ethyl maleimide/t-butyl 5-norbornene-2-carboxylate/3-hydroxypropyl bicyclo[2,2,2]oct-5-ene-2-carboxylate) polymer was obtained at a yield of about 78%.

reactant | Ethyl maleimide | 1 mol | C(C)C=1C(=O)NC(C1)=O | C6H7NO2
reactant | t-butyl 5-norbornene-2-carboxylate | 0.5 mol | C12C(CC(C=C1)C2)C(=O)OC(C)(C)C | C12H18O2
reactant | 2-hydroxyethyl bicyclo[2,2,2]oct-5-ene-2-carboxylate | 0.5 mol | C12C(CC(C=C1)CC2)C(=O)OCCO | C11H16O3
reactant | 2,2′-azobisisobutyronitrile | 2 g to 15 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrahydrofuran | 50 g to 300 g | O1CCCC1 | C4H8O
product | ethyl maleimide t-butyl 5-norbornene-2-carboxylate 3-hydroxypropyl bicyclo[2,2,2]oct-5-ene-2-carboxylate | yield of about 78% | C(C)C=1C(=O)NC(C1)=O.C12C(CC(C=C1)C2)C(=O)OC(C)(C)C.C12C(CC(C=C1)CC2)C(=O)OCCCO | InChI=1S/C12H18O3.C12H18O2.C6H7NO2/c13-6-1-7-15-12(14)11-8-9-2-4-10(11)5-3-9;1-12(2,3)14-11(13)10-7-8-4-5-9(10)6-8;1-2-4-3-5(8)7-6(4)9/h2,4,9-11,13H,1,3,5-8H2;4-5,8-10H,6-7H2,1-3H3;3H,2H2,1H3,(H,7,8,9)
